* usb_uart_connector.cir — SPICE subckt for the USB-C UFP receptacle subsystem.
*
* PROJECT-AGNOSTIC: the subckt pins are the subsystem's ABSTRACT interface
* (subsystems/usb_uart_connector/usb_uart_connector.py INTERFACE), NOT any board
* net. A consuming project wires these pins to its real nets — exactly as the
* netlist bind map does. The active parts (TYPE-C-31-M-12 receptacle, USBLC6-2SC6
* ESD array) are mixed-signal and not modelled here; this subckt captures the
* PASSIVE network the subsystem adds whose elements span two interface nets (the
* receptacle VBUS bulk) — which is what the local test and any board-level
* .op/.tran reason about.
*
* Values mirror subsystems/usb_uart_connector/usb_uart_connector.py one-for-one
* (parse_si compatible); test_cir_passives_match_netlist enforces equality:
*   C1 10u   receptacle VBUS bulk/bypass   (VBUS -> GND)
*
* The remaining passives terminate on a NON-interface (private CC) node and so
* are NOT subckt elements — documented here for completeness:
*   R1/R2 5.1k  CC device-role Rd pulldowns  (CCx -> GND, private CC nets)
*
* Port order: VBUS GND
* (GND last, by convention; the data-pair ports USB_DP/USB_DM and CHASSIS_GND
*  carry no two-interface-net passive and so are not subckt pins.)

.subckt usb_uart_connector VBUS GND

* receptacle VBUS bulk/bypass (USB-C UFP Cbus)
C1 VBUS GND 10u

.ends usb_uart_connector

* Standalone smoke harness (ngspice -b runs it; harmless under any project use):
* a 1 V source through 1k onto VBUS settles to 1 V at DC across the bulk cap.
.subckt _src P
V1 vin 0 1
R1 vin P 1k
.ends _src
.end
